US07557213B2
Experimental conditions analogous to those described for Step 1 of Example 2 using 75 mg (0.255 mmol) of 3-(4-Methoxy-3-methyl-benzoyl)-1H-[1,5]naphthyridin-4-one, 76.8 mg (0.306 mmol) of 2-bromo-6-bromomethyl-pyridine, 0.61 mL (0.306 mmol, 0.5 M in toluene) of potassium hexamethyldisilazane, and 2.5 mL of THF. The crude product was purified by flash column chromatography using a gradient of 20-100% ethyl acetate in hexane and further purified on the reverse phase HPLC with a C18 column, gradient of 20-70% acetonitrile—0.1% TFA to yield 20 mg of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(4-methoxy-3-methyl-benzoyl)-1H-[1,5]naphthyridin-4-one. LC-MSD, m/z for C23H18BrN3O3 [M+H]: 464.05 LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 2.0 min.

reactant | 3-(4-Methoxy-3-methyl-benzoyl)-1H-[1,5]naphthyridin-4-one | 0.255 mmol, 75 mg | COC1=C(C=C(C(=O)C2=CNC3=CC=CN=C3C2=O)C=C1)C | C17H14N2O3
reactant | 2-bromo-6-bromomethyl-pyridine | 0.306 mmol, 76.8 mg | BrC1=NC(=CC=C1)CBr | C6H5Br2N
reactant | potassium hexamethyldisilazane | 0.306 mmol, 0.5 M, 0.61 mL | C[Si](N[Si](C)(C)C)(C)C.[K]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(4-methoxy-3-methyl-benzoyl)-1H-[1,5]naphthyridin-4-one | 20 mg | BrC1=CC=CC(=N1)CN1C=C(C(C2=NC=CC=C12)=O)C(C1=CC(=C(C=C1)OC)C)=O | C23H18BrN3O3
